US04999353
N-tert-butyl-N-ethoxalyl-o-phenylenediamine
A solution of N-tert-butyl-N-ethoxalyl-2-nitroaniline (45 g) in absolute ethanol (500 ml) was hydrogenated at standard conditions (1 atm.) using 5% Pd/C (5 g) as catalyst. The catalyst was filtered off and the solvent was removed in vacuo. This left an oil, which crystallized upon standing, m.p. 64°-65° C.

reactant | N-tert-butyl-N-ethoxalyl-2-nitroaniline | 45 g | C(C)(C)(C)N(C1=C(C=CC=C1)[N+](=O)[O-])C(=O)C(=O)OCC | C14H18N2O5
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | Pd/C | 5 g | [Pd] | Pd
product | N-tert-butyl-N-ethoxalyl-o-phenylenediamine | C(C)(C)(C)N(C1=C(C=CC=C1)N)C(=O)C(=O)OCC | C14H20N2O3
